US06521643B1
To a suspension of N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea dihydrochloride (36.5 mg) in ethanol (0.5 ml) was added hydrazine hydrate (50 mg). The mixture was stirred at 80° C. for 1 hour and cooled to ambient temperature. The precipitate was collected by filtration, washed with ethanol, water and diisopropyl ether to give N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-N′-aminoguanidine (11 mg).

reactant | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea dihydrochloride | 36.5 mg | Cl.Cl.CC=1N=C(SC1C1=NC=CC(=C1)C)NC(SCC)=N
reactant | hydrazine hydrate | 50 mg | O.NN
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-N′-aminoguanidine | 11 mg | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(=N)NN | C11H14N6S
